US07465731B2
To a stirred solution of tert-butyl [(3R)-1-(4-methylbenzyl)-3-pyrrolidinyl]carbamate (4.6 g) in ethyl acetate (10 mL) was added 4N hydrogen chloride in ethyl acetate (60 mL) at ambient temperature and the resulting mixture was stirred at the same temperature for three hours. The mixture was concentrated in vacuo and the residual syrup was dissolved in chloroform (100 mL). To this solution was added saturated sodium bicarbonate (50 mL) and the resulting biphasic mixture was vigorously stirred at ambient temperature for half an hour. The organic layer was separated and the aqueous layer was reextracted with chloroform (50 mL) two times. The combined organic layer was dried over anhydrous sodium sulfate and evaporated in vacuo to afford (3R)-1-(4-methylbenzyl)-3-pyrrolidinamine (2.1 g) as a pale brown viscous oil, which was used in the next step without further purification.

reactant | tert-butyl [(3R)-1-(4-methylbenzyl)-3-pyrrolidinyl]carbamate | 4.6 g | CC1=CC=C(CN2C[C@@H](CC2)NC(OC(C)(C)C)=O)C=C1 | C17H26N2O2
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 60 mL | C(C)(=O)OCC | C4H8O2
product | (3R)-1-(4-methylbenzyl)-3-pyrrolidinamine | 2.1 g | CC1=CC=C(CN2C[C@@H](CC2)N)C=C1 | C12H18N2
